US04814344
3-(Dimethylamino)-1-(1-methyl-1H-indol-3-yl)-1-propanone
A mixture of 1-(1-methyl-1H-indol-3-yl)-1-ethanone (46.16 g), paraformaldehyde (12.0 g) and dimethylamine hydrochloride (21.65 g) in ethanol (970 ml) was stirred and heated at reflux for 24 h. The mixture was diluted with water (3.5 l) and filtered. The filtrate was basified with 0.88 ammonia solution and extracted with ethyl acetate (3×665 ml). The combined organic extracts were washed with water, dried and evaporated to give title compound (57.24 g) as an oil, λmax (EtOH) 245.5 nm (ε15,820), λmax 303.5 nm (ε15,680), λinf 249.5 nm (ε15,015).

reactant | 1-(1-methyl-1H-indol-3-yl)-1-ethanone | 46.16 g | CN1C=C(C2=CC=CC=C12)C(C)=O | C11H11NO
reactant | paraformaldehyde | 12.0 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 21.65 g | Cl.CNC
solvent | ethanol | 970 ml | C(C)O | C2H6O
solvent | water | 3.5 l | O | H2O
product | 3-(Dimethylamino)-1-(1-methyl-1H-indol-3-yl)-1-propanone | 57.24 g | CN(CCC(=O)C1=CN(C2=CC=CC=C12)C)C | C14H18N2O
